US05075319
2,6-Di(trifluoromethyl)-4-(trimethylstannyl)pyridine was prepared from 8.7 g 4-bromo-2,6-di(trifluoromethyl)pyridine, 12.4 ml butyllithium (24M in hexane) and 6 g trimethyltin chloride in 200 ml ether according to the procedure of Example 3, part (g), and was obtained (11 g) as a yellow semi-solid.

reactant | 4-bromo-2,6-di(trifluoromethyl)pyridine | 8.7 g | BrC1=CC(=NC(=C1)C(F)(F)F)C(F)(F)F | C7H2BrF6N
reactant | butyllithium | 24M, 12.4 ml | C(CCC)[Li]
reactant | trimethyltin chloride | 6 g | C[Sn](C)(C)Cl
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2,6-Di(trifluoromethyl)-4-(trimethylstannyl)pyridine | FC(C1=NC(=CC(=C1)[Sn](C)(C)C)C(F)(F)F)(F)F | InChI=1S/C7H2F6N.3CH3.Sn/c8-6(9,10)4-2-1-3-5(14-4)7(11,12)13;;;;/h2-3H;3*1H3;
